US07951810B2
Step d: (2R,3R,5S)-2-[6-((S)-Indan-1-ylamino)-purin-9-yl]-5-sulfamoyloxymethyl-tetrahydrofuran-3-yl acetate
To a solution of (2R,3R,5S)-5-hydroxymethyl-2-[6-((S)-indan-1-ylamino)-purin-9-yl]tetrahydrofuran-3-yl acetate (0.20 mmol) and triethylamine (56 μL, 0.0.40 mmol) in DMF (3.3 mL) was added dropwise 150 μL of a 2M solution of the chlorosulfonamide in acetonitrile and the cloudy solution was stirred. Identical amounts of triethylamine and the chlorosulfonamide solution were added after 2.5 and 4 hours. The reaction was diluted with EtOAc and water, the layers were separated, and the aqueous layer was extracted with EtOAc (1×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was purified by silica gel chromatography (0% to 10% MeOH/CH2Cl2) to afford 51 mg (52%) of the title compound.

reactant | (2R,3R,5S)-5-hydroxymethyl-2-[6-((S)-indan-1-ylamino)-purin-9-yl]tetrahydrofuran-3-yl acetate | 0.20 mmol | C(C)(=O)O[C@H]1[C@@H](O[C@@H](C1)CO)N1C2=NC=NC(=C2N=C1)N[C@H]1CCC2=CC=CC=C12 | C21H23N5O4
reactant | triethylamine | 56 μL | C(C)N(CC)CC | C6H15N
reactant | chlorosulfonamide | ClS(=O)(=O)N | ClH2NO2S
solvent | DMF | 3.3 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (2R,3R,5S)-2-[6-((S)-Indan-1-ylamino)-purin-9-yl]-5-sulfamoyloxymethyl-tetrahydrofuran-3-yl acetate | 51 mg, 52% | C(C)(=O)O[C@H]1[C@@H](O[C@@H](C1)COS(N)(=O)=O)N1C2=NC=NC(=C2N=C1)N[C@H]1CCC2=CC=CC=C12 | C21H24N6O6S
